US04867913
12α-Hydroxypregna-1,4-diene-3,20-dione (3.3 g) was dissolved in 17 mlof pyridine. To the solution was added 3.4 g of methanesulfonyl chloride, and the mixture was stirred at room temperature for 8 hours. The reaction mixture was then poured into 300 ml of diluted hydrochloric acid, and the resulting mixture was extracted with three 300 ml portions of benzene. Theextracts were combined and washed in sequence with diluted hydrochloric acid, aqueous sodium bicarbonate solution and water, and dried over anhydrous magnesium sulfate. Low-boiling fractions were distilled off under reduced pressure from the extract to give 3.8 g of crude 12α-mesyloxypregna-1,4-diene-3,20-dione, which was recrystallized from ethyl acetate. The physical properties for the thus-purified product were as follows:

reactant | 12α-Hydroxypregna-1,4-diene-3,20-dione | 3.3 g | O[C@H]1C[C@@H]2[C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC[C@H](C(C)=O)[C@@]12C)=O)C | C21H28O3
reactant | methanesulfonyl chloride | 3.4 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 300 ml | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 12α-mesyloxypregna-1,4-diene-3,20-dione | 3.8 g | S(=O)(=O)(C)O[C@H]1C[C@@H]2[C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC[C@H](C(C)=O)[C@@]12C)=O)C | C22H30O5S
